US04200466
(2) Preparation of 2-octadecylsuccinimido-5-amino-phenol
In 2 liters of ethanol were suspended 150 g of 2-octadecylsuccinimido-5-nitro-phenol and 7.5 g of palladium/carbon were added to the suspension, which was subjected to catalytic reduction with hydrogen gas at room temperature under normal pressure. After about 10 hours of reaction period of time, palladium/carbon was filtered off and ethanol was removed by distillation. The residue was recrystallized from benzene to give white powdery crystal melting at 85°-90° C. in the yield of 90 g.

reactant | 2-octadecylsuccinimido-5-nitro-phenol | 150 g | C(CCCCCCCCCCCCCCCCC)C1C(=O)N(C(C1)=O)C1=C(C=C(C=C1)[N+](=O)[O-])O | C28H44N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 2 liters | C(C)O | C2H6O
catalyst | palladium/carbon | 7.5 g | [Pd] | Pd
product | 2-octadecylsuccinimido-5-amino-phenol | C(CCCCCCCCCCCCCCCCC)C1C(=O)N(C(C1)=O)C1=C(C=C(C=C1)N)O | C28H46N2O3
